Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old man with diet treated hyperlipidemia who presents 
with new onset atrial fibrillation while playing basketball 
___. He is quite active at baseline. Patient reports playing 
basketball at 1430 when he had sudden onset palpitations. He 
denied any chest pain, shortness of breath, or dizziness with 
this. He has never had anything like this in the past. He went 
to urgent care and was referred to the ___.

No h/o atrial fibrillation in the past. Family h/o of mother 
having atrial fibrillation in her ___. He endorsed some urinary 
frequency and urgency. He is on valacylcovir for cold sores. He 
denied fever or other infectious symptoms. He drinks a few 
glasses of wine daily. No tobacco or drug use.  

In the ED, initial VS: T 98.3 F, BP 140/70s decreasing to the 
___, VR 120s decreasing to ___, SaO2 98% on RA. Heart rhythm 
irregularly irregular, clear lungs. EKG showed atrial 
fibrillation. Labs: WBC 9.2, Hgb 15.5, K 5.9 (hemolyzed), Cr 
1.0, INR 1.0, UA benign. Telemetry showed atrial fibrillation 
with RVR to 150s. Trigger called, patient given diltiazem 15 mg 
IV with improvement in ventricular rate to ___. Patient was 
started on metoprolol tartrate 25 mg po per cardiology 
recommendations. Patient went into NSR in 50-60s with soft BPs. 
Vitals on transfer: T 97.6 BP 118/76 HR 52 RR 20 SaO2 99% on RA.
 
After arrival to the cardiology ward, the patient denied chest 
pain, palpitations and shortness of breath. He did endorse being 
under a lot of stress recently.
 
Past Medical History:
1. CAD RISK FACTORS  
+ Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
-Herpes simplex virus
-Melanoma
-Varicose veins
-Atypical lymphocytic infiltrate of skin
 
Social History:
___
Family History:
--Father is ___ and well.  
--Mother is ___ with history of resected melanoma at age ___.  
--Brother age ___ had a basal cell carcinoma.  
--Sister age ___ is well.  
--Brother age ___ is well.  
--A paternal aunt had brain cancer 

No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
On admission
GENERAL: Well-developed, well-nourished middle aged white man, 
anxious appearing
VITALS: T 97.6 BP 118/76 HR 52 RR 20 SaO2 99% on RA
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple, no JVD
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. Late systolic murmur ___ heard loudest 
in mitral window.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, not distended. No HSM or tenderness.
EXTREMITIES: No clubbing, cyanosis or edema. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

At discharge
GENERAL: Well-developed, well-nourished.
VITALS: T 97.6 PO BP 96/56 HR 47 RR 16 SaO2 98% on RA
HEENT: NCAT. Sclera anicteric.
NECK: Supple, no JVD
CARDIAC: RRR, normal S1, S2. Late systolic murmur ___ heard 
loudest in mitral window.
LUNGS: CTAB - no crackles, wheezes, or rhonchi.
ABDOMEN: Soft, non-tender, not distended.
EXTREMITIES: No clubbing, cyanosis or edema.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
___ 10:00PM BLOOD WBC-9.2# RBC-5.00 Hgb-15.5 Hct-46.9 
MCV-94# MCH-31.0 MCHC-33.0 RDW-12.9 RDWSD-44.6 Plt ___
___ 10:00PM BLOOD Neuts-79.6* Lymphs-12.9* Monos-6.4 
Eos-0.2* Baso-0.7 Im ___ AbsNeut-7.33* AbsLymp-1.19* 
AbsMono-0.59 AbsEos-0.02* AbsBaso-0.06
___ 10:00PM BLOOD ___ PTT-30.5 ___

___ 10:00PM BLOOD Glucose-107* UreaN-20 Creat-1.0 Na-139 
K-5.9* Cl-99 HCO3-25 AnGap-15
___ 10:00PM BLOOD TSH-3.2
___ 10:00PM BLOOD Free T4-1.1

___ CXR 
Heart size is normal. The mediastinal and hilar contours are 
normal. The pulmonary vasculature is normal. Lungs are 
hyperexpanded but clear. No pleural effusion or pneumothorax is 
seen. There are no acute osseous abnormalities. 
IMPRESSION: No acute cardiopulmonary abnormality. 

DISCHARGE LABS
___ 06:40AM BLOOD WBC-6.7 RBC-4.25* Hgb-13.7 Hct-41.5 
MCV-98 MCH-32.2* MCHC-33.0 RDW-13.2 RDWSD-47.1* Plt ___
___ 06:40AM BLOOD Glucose-89 UreaN-31* Creat-1.1 Na-143 
K-4.7 Cl-103 HCO3-25 AnGap-15
___ 06:40AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.2 Cholest-223*
 
Brief Hospital Course:
Mr. ___ is a ___ year old with history of hyperlipidemia 
and HSV-1 who presented with palpitations and was found to have 
new onset atrial fibrillation with rapid ventricular rate (RVR).

ACUTE ISSUES
# New onset atrial fibrillation in RVR on admission, s/p 
metoprolol and diltiazem acutely with subsequent spontaneous 
resolution back to NSR. In terms of potential triggers, his TSH 
normal, UA unremarkable, no leukocytosis, and no fevers - 
however patient did endorse having a cold sore prior to this 
episode and feeling overall fatigued. He also reports feeling 
dehydrated and was incredibly thirsty prior to admission - thus 
dehydration may have played a role. Of note though, Mr. 
___ had mitral valve prolapse with mild regurgitation 
noted in ___ on a TTE - thus these may be contributors as well. 
He was unable to get a TTE while an inpatient, but should obtain 
one in the coming week as an outpatient to reevaluate for any 
structural abnormalities as well as to obtain an outpatient 
stress test. Nonetheless, his CHADS2VASC score is 0, and thus we 
stopped rivaroxaban 20 mg daily. At discharge, due to resting 
bradycardia in the ___, Mr. ___ was reduced from 
metoprolol tartrate 25 mg q6 hours to metoprolol tartrate 25 mg 
once (dispensed #30) only to be taken if he had palpitations and 
his HR >120 prior to proceeding to the emergency department to 
be further evaluated. Mr. ___ is to follow up with Dr. 
___ as an outpatient within the next week or two.

CHRONIC ISSUES
# Hyperlipidemia: Reportedly diet controlled. Total cholesterol 
223, lipid panel requested but not run. This can be followed up 
by his PCP as an outpatient. 

# HSV: Did not have an ongoing flare. On home Valacyclovir PRN.

TRANSITIONAL ISSUES
[ ] TTE ("Echo") as an outpatient: Placed order in OMR, to be 
scheduled within the week. If you have not been called to 
schedule by ___, please call ___.
[ ] Stress test: Placed order in OMR. If you have not been 
called to schedule by ___, please call ___.
[ ] Please make an appointment with Dr. ___ outpatient 
___ (___) within 2 weeks to discuss your TTE 
results, stress test results, and medication regimen
[ ] Please make an appointment with your PCP, ___ 
2 weeks to follow up your cholesterol results and determine if a 
cholesterol medication is appropriate (___)
[ ] Prescribed Metoprolol tartrate 25 mg PO PRN palpitations and 
HR >120 bpm. Pt advised that if he needs to take the medication, 
he should be evaluated in the emergency department as well.
 
Medications on Admission:
None
 
Discharge Medications:
Metoprolol Tartrate 25 mg PO PRN palpitations and HR >120 bpm
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Atrial Fibrillation
-Bradycardia
-Hyperlipidemia
-Herpes Simplex Virus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had palpitations and were found 
to be in atrial fibrillation, where your heart beats faster than 
it should.  

What happened while I was in the hospital?  
-You were given medications to slow your heart down. You were on 
a heart monitor throughout your hospitalization, and no longer 
had these periods of fast heart rates.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and call Cardiology to make an outpatient appointment. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

-Your ___ Team 
 
Followup Instructions:
___